US05958375
c. 3-Hydroxymethyl-5-(2,3-dihydroxypropylaminocarbonyl)aniline
1-Hydroxymethyl-3-nitro-5-(2,3-dihydroxypropylaminocarbonyl)benzene (12.0 g, 44.4 mmol) was hydrogenated in methanol (150 ml) at 60 psi H2 using Pd/C (10%, 100 mg) as the catalyst. The catalyst was removed by filtration and the residue was evaporated. Addition of methanol (10 ml) precipitated the product as a white solid which was filtered off and dried. Yield: 6.6 g (62%).

reactant | 1-Hydroxymethyl-3-nitro-5-(2,3-dihydroxypropylaminocarbonyl)benzene | 44.4 mmol, 12.0 g | OCC1=CC(=CC(=C1)C(=O)NCC(CO)O)[N+](=O)[O-] | C11H14N2O6
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3-Hydroxymethyl-5-(2,3-dihydroxypropylaminocarbonyl)aniline | OCC=1C=C(N)C=C(C1)C(=O)NCC(CO)O | C11H16N2O4
